US08957080B2
To a solution of 4-chloro-7H-pyrrolo[2,3-d]pyrimidine (10 g, 65.12 mmol, 1.0 eq) in THF (300 mL), NaH (5.30 g, 130.24 mmol, 2 eq) was added at 0° C. After 3 h, benzenesulfonyl chloride (22.53 g, 130.24 mmol, 2 eq) was added. The temperature was warmed to RT and continued for 1 h. The reaction mixture was poured into sat. NH4Cl and extracted with EtOAc. The organic layers were dried, concentrated and purified by column chromatography (eluting with 10% EtOAc in PE) to afford 4-chloro-7-(phenylsulfonyl)-7H-pyrrolo[2,3-d]pyrimidine as brown solid (4.5 g, 24% in yield)

reactant | 4-chloro-7H-pyrrolo[2,3-d]pyrimidine | 65.12 mmol, 10 g, 1.0 eq | ClC=1C2=C(N=CN1)NC=C2 | C6H4ClN3
reactant | NaH | 130.24 mmol, 5.30 g, 2 eq | [H-].[Na+]
reactant | benzenesulfonyl chloride | 130.24 mmol, 22.53 g, 2 eq | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 300 mL | C1CCOC1 | C4H8O
product | 4-chloro-7-(phenylsulfonyl)-7H-pyrrolo[2,3-d]pyrimidine | ClC=1C2=C(N=CN1)N(C=C2)S(=O)(=O)C2=CC=CC=C2 | C12H8ClN3O2S
